US07094908B2
Ethyl 3-(2,5-dioxo-3-phenyl-2,5-dihydro-pyrrol-1-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.41 g, 58%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.40 g, 1.96 mmol) and phenylmaleic anhydride (0.57 g, 2.16 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.96 mmol, 0.40 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | phenylmaleic anhydride | 2.16 mmol, 0.57 g | C1(=CC=CC=C1)/C=1/C(=O)OC(\C1)=O | C10H6O3
product | Ethyl 3-(2,5-dioxo-3-phenyl-2,5-dihydro-pyrrol-1-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | O=C1N(C(C=C1C1=CC=CC=C1)=O)CC(C(=O)OCC)C1(OCCO1)C | C19H21NO6
